US07317012B2
1D. Preparation of 6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3(2H)-one
To a solution of 2-benzyl-6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3(2H)-one (6.4 g, 15.7 mmol) in toluene (100 mL) at 90° C. was added aluminum chloride (5.23 g, 39.3 mmol) in one portion. After addition, the reaction mixture was stirred at 90° C. for 20 min. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure to reduce the volume to about 50 mL, then water (150 mL) was added. The resulting mixture was sonicated for 5 min, then stirred at room temperature for 10 min. The resulting suspension was filtered, the colleted solid washed with water (20 mL×3), hexanes (20 mL×3) and dried in a 50° C. vacuum oven for 16 h to afford 4.2 g (76%) of the title compound as a white solid. LC/MS (method A): retention time=3.27 min, (M+H)+=317. 1H NMR (CDCl3, 400 MHz): δ 11.6 (S, 1H), 7.17-7.40 (m, 6H), 6.90-7,10 (m, 3H).

reactant | 2-benzyl-6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3(2H)-one | 15.7 mmol, 6.4 g | C(C1=CC=CC=C1)N1N=C(C(=CC1=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C23H16Cl2N2O
reactant | aluminum chloride | 39.3 mmol, 5.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3(2H)-one | 4.2 g, 76% | ClC1=C(C=CC=C1)C=1C(=CC(NN1)=O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O
